US04933472
1.7 g of tetraethyl (tetrahydro-2H-thiopyran-4-yl)aminomethylenebis(phosphonate) was dissolved in 20 ml of concentrated hydrochloric acid and heated under reflux for 2.5 hours. After cooling, the reaction solution was concentrated under reduced pressure to eliminate hydrochloric acid, 30 ml of purified water was added to the residue and then the mixture was again concentrated under reduced pressure. The obtained pale yellow solid was recrystallized from water-methanol to give 0.8 g of (tetrahydro-2H-thiopyran-4-yl)aminomethylenebis(phosphonic acid) as colorless crystals in the form of needle.

reactant | tetraethyl (tetrahydro-2H-thiopyran-4-yl)aminomethylenebis(phosphonate) | 1.7 g | S1CCC(CC1)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C14H31NO6P2S
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | (tetrahydro-2H-thiopyran-4-yl)aminomethylenebis(phosphonic acid) | 0.8 g | S1CCC(CC1)NC(P(O)(O)=O)P(O)(O)=O | C6H15NO6P2S
